US07541372B2
N′-{2-Fluoro-5-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-N,N-dimethyl-ethane-1,2-diamine
As described for example 26, 2-(4,5-difluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.54 mmol) instead of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole was converted using N,N-dimethylethylenediamine instead of thiomorpholine to the title compound (202 mg, 85%) which was obtained as an off-white solid. MS: m/e=438.4 [M+H]+.

reactant | 2-(4,5-difluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.54 mmol, 200 mg | FC1=CC(=C(C=C1F)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H13F2N3O3
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | N′-{2-Fluoro-5-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-N,N-dimethyl-ethane-1,2-diamine | 202 mg, 85% | FC1=C(C=C(C(=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC)NCCN(C)C | C23H24FN5O3
